US09034880B2
Preparation of 8-Chloro-5-[2-(6-isopropyl-pyridin-3-yl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (Compound 372)
To a solution of 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.1 g. 0.00045 mol) in N-methyl 2-pyrolidone (1.0 mL) was added powdered potassium hydroxide (0.140 g, 0.0025 mol) and allowed to stir for 10 min at RT. 2-Isopropyl-5-vinyl-pyridine (0.185 g, 0.00125 mol) was added and stirred for further 4 h. at 100 deg C. After completion (TLC), reaction mixture was diluted with water (15 mL) and extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulphate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (7% MeOH:DCM in silica 100-200 mesh, Diameter of column—2.5 cm, Height of silica—approx. 5 inch), Then further purified by preparative TLC, to give the desired compound as yellow oil (0.027 g, 15% yield). 8-Chloro-5-[2-(6-isopropyl-pyridin-3-yl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.027 g, 0.00007 mol) was dissolved in THF (1.0 mL). A solution of oxalic acid dihydrate (0.009 g, 0.00007 mol) in THF (0.5 mL) was added and stirred for 30 min at RT, Precipitate obtained was filtered and dried to give oxalate salt as off white solid (0.027 g, 81% yield).

reactant | 8-Chloro-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.00045 mol, 0.1 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | potassium hydroxide | 0.0025 mol, 0.140 g | [OH-].[K+]
reactant | 2-Isopropyl-5-vinyl-pyridine | 0.00125 mol, 0.185 g | C(C)(C)C1=NC=C(C=C1)C=C | C10H13N
solvent | N-methyl 2-pyrolidone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | 8-Chloro-5-[2-(6-isopropyl-pyridin-3-yl)-ethyl]-2-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.027 g, 15% yield | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C(C)C)CCN(C3)C | C22H26ClN3
